US07488739B2
3-Pentanone, acetic acid and sodium triacetoxyborohydride were added to a 1,2-dichloroethane solution of 3,4,5-trifluoroaniline, for stirring at ambient temperature for 14 hours, to obtain N-(1-ethylpropyl)-3,4,5-trifluoroaniline.

reactant | 3-Pentanone | CCC(CC)=O | C5H10O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3,4,5-trifluoroaniline | FC=1C=C(N)C=C(C1F)F | C6H4F3N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | N-(1-ethylpropyl)-3,4,5-trifluoroaniline | C(C)C(CC)NC1=CC(=C(C(=C1)F)F)F | C11H14F3N
